US04482762
A Grignard reagent, prepared by reacting 11.8 g (0.49 g atom) of magnesium in 50 ml of ether and 67.13 g (0.49 mol) of isobutyl bromide in 250 ml of ether, is reacted with 40.0 g (0.41 mol) of 2-methyl-2-pentenal in 100 ml of ether in a manner analogous to Example 5. Fractional distillation of the crude product (94 g) over a 20 cm Widmer column give 44.4 g (69.4%) of olfactorily good 4,7-dimethyl-3-octen-5-ol of boiling point 47°-48° C./0.04 mm Hg.

reactant | magnesium | 11.8 g | [Mg] | Mg
reactant | isobutyl bromide | 0.49 mol, 67.13 g | C(C(C)C)Br | C4H9Br
reactant | 2-methyl-2-pentenal | 0.41 mol, 40.0 g | CC(C=O)=CCC | C6H10O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 250 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 4,7-dimethyl-3-octen-5-ol | CC(=CCC)C(CC(C)C)O | C10H20O
